US07166598B2
A mixture of 2,5-bis(hydroxymethyl)tetrahydrofuran bis(p-toluenesulfonate) (10 g) and benzylamine (9.7 g) was stirred at 70° C. for 24 hours. To the mixture was added a solution of sodium hydroxide (1.85 g) in methanol (30 ml). After stirring at room temperature for 30 minutes, the mixture was filtered. The filtrate was evaporated, added dichloromethane, and filtered. The filtrate was evaporated under reduced pressure, and purified with column chromatography (silica gel, 250 ml, ethyl acetate:hexane=1:4) to give 3-benzyl-8-oxa-3-azabicyclo[3.2.1]octane (4.05 g) as an oil.

reactant | 2,5-bis(hydroxymethyl)tetrahydrofuran bis(p-toluenesulfonate) | 10 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C1(=CC=C(C=C1)S(=O)(=O)O)C.OCC1OC(CC1)CO
reactant | benzylamine | 9.7 g | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium hydroxide | 1.85 g | [OH-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | 3-benzyl-8-oxa-3-azabicyclo[3.2.1]octane | 4.05 g | C(C1=CC=CC=C1)N1CC2CCC(C1)O2 | C13H17NO
